US04647686
The Preparation of 1-Cyano-2-Methyl-5-Ketohexane
A solution of 2 ml of NH3 in 50 ml of methanol is charged into an airtight container fitted with a gas inlet tube and mechanical stirrer. To this solution is added with stirring 0.015 g of CuCl2 2H2O and 1.25 g of 2,5-dimethyl cyclohexanone. Stirring is continued until all solids had dissolved. The container is pressurized with oxygen, and allowed to sit at room temperature for 18 hours. The methanol solvent is removed by rotary evaporator and the product extracted in ether. The ether layer is concentrated. GLC analysis confirmed the presence of 1-cyano-2-methyl-5-ketohexane.

reactant | NH3 | 2 ml | N | H3N
reactant | 2,5-dimethyl cyclohexanone | 1.25 g | CC1C(CC(CC1)C)=O | C8H14O
reactant | oxygen | O=O | O2
reactant | methanol | 50 ml | CO | CH4O
product | 1-Cyano-2-Methyl-5-Ketohexane | C(#N)CC(CCC(C)=O)C | C8H13NO
